US08802854B2
To a suspension of 0.499 g of prasugrel base in 5.29 ml of isopropyl acetate/5.5% methanol at 20-25° C., was added dropwise a solution of 0.17 ml 47% HBr(aq) in 1.53 ml of isopropyl acetate/2% methanol. Crystallization occurred to form fluffy crystals. After 45 minutes the resulting suspension was cooled down to 0-5° C. and stirred for about 4 hours. The crystals were filtered off, washed with 1 ml of isopropyl acetate and dried at 40° C./10 mbar for about 17 hours, Prasugrel hydrobromide (0.553 g) was obtained.

reactant | prasugrel | 0.499 g | CC(=O)OC1=CC2=C(S1)CCN(C2)C(C=3C=CC=CC3F)C(=O)C4CC4 | C20H20FNO3S
reactant | HBr | 0.17 ml | Br | BrH
solvent | isopropyl acetate | 5.29 ml | C(C)(=O)OC(C)C | C5H10O2
solvent | isopropyl acetate | 1.53 ml | C(C)(=O)OC(C)C | C5H10O2
product | Prasugrel hydrobromide | 0.553 g | CC(=O)OC1=CC2=C(S1)CCN(C2)C(C3=CC=CC=C3F)C(=O)C4CC4.Br | InChI=1S/C20H20FNO3S.BrH/c1-12(23)25-18-10-14-11-22(9-8-17(14)26-18)19(20(24)13-6-7-13)15-4-2-3-5-16(15)21;/h2-5,10,13,19H,6-9,11H2,1H3;1H
